US05352796
4-Nitrophenyl-D-alanine (157 grams, 0.75 mole) was dissolved in 500 mL of 40% aqueous tert-butyl alcohol, and the pH was adjusted to 9.9 with 2N NaOH. Di-tert-butyldicarbonate (198 g, 0.9 mole) was added over 35 minutes to the stirred reaction, and the mixture was then allowed to stir at ambient temperature for 2 hours. The pH was maintained at about 9.8 over the course of the reaction. The reaction product was then first extracted with petroleum ether (2×800 mL) and diethyl ether (1×500 mL), followed by cautious acidification of the aqueous phase to pH 2 with NaHSO4. The aqueous layer was extracted with ethyl acetate; this was then dried over MgSO4 and concentrated under vacuum to yield a viscous oil that solidified upon trituration with petroleum ether. The Boc-amino acid was collected by filtration, washed with petroleum ether and dried to give 210 g of Nα -Boc-4-nitrophenyl-D-alanine (0.68 mole, 90%). [α]D =-7.0° (c=0.9 in MeOH); mp=100°-104° C. (lit. 108°-110° C.).

reactant | 4-Nitrophenyl-D-alanine | 0.75 mole, 157 grams | [N+](=O)([O-])C1=CC=C(C=C1)N[C@H](C)C(=O)O | C9H10N2O4
reactant | NaOH | 2N | [OH-].[Na+]
reactant | Di-tert-butyldicarbonate | 0.9 mole, 198 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butyl alcohol | 500 mL | C(C)(C)(C)O | C4H10O
product | Nα -Boc-4-nitrophenyl-D-alanine | 0.68 mole, 210 g, 90% | C(=O)(OC(C)(C)C)N([C@H](C)C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
